US06927222B2
(ii) Methyl 2-methyl-2-{[2-(2-oxiranylmethoxy)benzoyl]amino}propanoate
A solution of methyl 2-[(2-hydroxybenzoyl)amino]-2-methylpropanoate, K2CO3 (20 mmol, 2.68 g) and 2-(chloromethyl)oxirane (22 mmol, 2.03 g) in acetonitrile (60 ml) was stirred at reflux temperature overnight. The reaction mixture was diluted with EtOAc and washed with 1.8% HCl/aq (250 ml) and sat. NaCl/aq (250 ml). The organic phase was dried over Na2SO4 and concentrated at reduced pressure. The residue was purified on C18-column (H2O:CH3CN, 0.1M NH4OAc buffer, gradient 10% to 95% CH3CN) to give the subtitle compound (244 mg, 5% yield, two steps).

reactant | methyl 2-[(2-hydroxybenzoyl)amino]-2-methylpropanoate | OC1=C(C(=O)NC(C(=O)OC)(C)C)C=CC=C1 | C12H15NO4
reactant | K2CO3 | 20 mmol, 2.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(chloromethyl)oxirane | 22 mmol, 2.03 g | ClCC1OC1 | C3H5ClO
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-methyl-2-{[2-(2-oxiranylmethoxy)benzoyl]amino}propanoate | 244 mg, 5% yield | CC(C(=O)OC)(C)NC(C1=C(C=CC=C1)OCC1OC1)=O | C15H19NO5
